US04221915
α-Phenylthio-2-thiopheneacetic acid (890 mg, 3.56 mmol) was dissolved in acetic acid (6 ml), then zinc dust (350 mg, 5.4 mmol) was added and the mixture was heated under reflux with vigorous stirring. After 30 min., zinc dust (350 mg, 5.4 mmol) was added again, and the mixture was heated under reflux for another 4 hr. with stirring, then cooled to room temperature, and most of the solvent was removed by distillation. Water and ethyl acetate were added and the precipitate was filtered off by the use of celite, and the layers of the filtrate were separated. The organic layer was washed with an aqueous solution of sodium chloride and dried with anhydrous magnesium sulfate. After filtration, the solution was concentrated under a reduced pressure and the crystals thus obtained were further recrystallized from ethyl acetate: n-hexane to give 2-thiopheneacetic acid (430 mg) melting at 62° C. (literature value: 62°-65° C.).

reactant | α-Phenylthio-2-thiopheneacetic acid | 3.56 mmol, 890 mg | C1(=CC=CC=C1)SC(C(=O)O)C=1SC=CC1 | C12H10O2S2
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 5.4 mmol, 350 mg | [Zn] | Zn
catalyst | zinc | 5.4 mmol, 350 mg | [Zn] | Zn
product | 2-thiopheneacetic acid | 430 mg, Yield: 85% | S1C(=CC=C1)CC(=O)O | C6H6O2S
